US05753710
b. 4-Chloro-3-hydroxysulfinylbenzoic acid
157.55 g of sodium sulfite (1.25 mol) were dissolved in 725 ml of water and heated to 70° C. At this temperature, 255.08 g of 5-carboxy-2-chlorobenzenesulfonyl chloride were added in portions, the pH (electrode) being kept between 8 and 10 by continuous addition of 320 ml of half-concentrated sodium hydroxide solution (the reaction is slightly exothermic). After the end of the addition, the mixture was subsequently stirred at 70° C. for 2 hours. As soon as the reaction had ended, 5 g of active carbon were added, and after 30 minutes the mixture was filtered hot through a clarifying layer and diluted with 600 ml of water. The solution was allowed to cool to 15°-20° C. and was adjusted to pH 0 using 250 ml of conc. hydrochloric acid, the viscous suspension was stirred in an ice bath for a further 30 minutes and the mixture was then stood well closed in a refrigerator over the weekend. The precipitate was filtered off with suction, washed once with 100 ml of 2N hydrochloric acid and then sucked dry in a stream of air. The substance was sucked dry in vacuo at 50° C.

reactant | sodium sulfite | 1.25 mol, 157.55 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | 5-carboxy-2-chlorobenzenesulfonyl chloride | 255.08 g | C(=O)(O)C=1C=CC(=C(C1)S(=O)(=O)Cl)Cl | C7H4Cl2O4S
reactant | sodium hydroxide | 320 ml | [OH-].[Na+]
solvent | water | 725 ml | O | H2O
product | 4-Chloro-3-hydroxysulfinylbenzoic acid | ClC1=C(C=C(C(=O)O)C=C1)S(=O)O | C7H5ClO4S
